US06852726B2
2-Nitro-α-toluenesulfonyl chloride (0.943 g, 4.0 mmole) was dissolved in dry dioxane (7 ml) and treated with a solution of dimethylamine (4 ml 2M solution in THF, 8.0 mmole), and stirred at room temperature for a total of 6 h. The reaction mixture was transferred to a separatory funnel and partitioned between ethyl acetate and water. The organic solution was washed with brine, dried over magnesium sulfate, filtered and evaporated to dryness to afford the pure 2-nitrobenzyl-N,N-dimethylsulfonamide, 0.829 g (85% yield).

reactant | 2-Nitro-α-toluenesulfonyl chloride | 4.0 mmole, 0.943 g | [N+](=O)([O-])C1=C(C=CC=C1)CS(=O)(=O)Cl | C7H6ClNO4S
reactant | dimethylamine | 8.0 mmole, 2M, 4 ml | CNC | C2H7N
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
product | 2-nitrobenzyl-N,N-dimethylsulfonamide | 85% yield | [N+](=O)([O-])C1=C(CS(=O)(=O)N(C)C)C=CC=C1 | C9H12N2O4S
